US06559173B1
3-[(5-Methyl-isoxazol-3-ylamino)-methylene]-1,3-dihydro-indol-2-one
The named compound is prepared by substituting 5-methyl-isoxazol-3-ylamine for 3-aminopyrazole in the reaction of Example 1. Specifically, E & Z-3-[(hydroxy)-methylene]-1,3-dihydro-indol-2-one (0.100 gins.) is reacted with 0.1228 gms. 5-methyl-isoxazol-3-ylamine by refluxing in tetrahydrofuran (2.7 mL).

reactant | 3-aminopyrazole | NC1=NNC=C1 | C3H5N3
reactant | Z-3-[(hydroxy)-methylene]-1,3-dihydro-indol-2-one | O\C=C\1/C(NC2=CC=CC=C12)=O | C9H7NO2
reactant | 5-methyl-isoxazol-3-ylamine | CC1=CC(=NO1)N | C4H6N2O
solvent | tetrahydrofuran | 2.7 mL | O1CCCC1 | C4H8O
product | 3-[(5-Methyl-isoxazol-3-ylamino)-methylene]-1,3-dihydro-indol-2-one | CC1=CC(=NO1)NC=C1C(NC2=CC=CC=C12)=O | C13H11N3O2
